US04743606
Here, 3,5-di-t-butyl-4-hydroxybenzaldehyde (223 g, 0.952 mol), Ethyl 3-pyridylacetate (157.2 g, 0.952 mol), piperidine (81 g, 0.952 mol) and p-tolunesulfonic acid (0.5 g) are combined in ethanol (2,400 ml) and heated at reflux for 48 hours. The reaction mixture is allowed to cool to room temperature and then stirred on an ice bath, whereupon the product begins to crystallize. The mixture is stored in the freezer overnight, filtered and rinsed with cold ethanol-water (1:1). The product is dried, giving ethyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(3-pyridyl)propenoate (169.1 g) Mp 119.5°-120.5° C.

reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 0.952 mol, 223 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | Ethyl 3-pyridylacetate | 0.952 mol, 157.2 g | N1=CC(=CC=C1)CC(=O)OCC | C9H11NO2
reactant | piperidine | 0.952 mol, 81 g | N1CCCCC1 | C5H11N
solvent | ethanol | 2,400 ml | C(C)O | C2H6O
product | ethyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)-2-(3-pyridyl)propenoate | 169.1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C(C(=O)OCC)C=1C=NC=CC1 | C24H31NO3
